US07691869B2
To a suspension of NaH (0.618 g, 15.45 mmol) in anhydrous DMF (15 mL) at 0° C. is added slowly a solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine (2 g, 11.86 mmol) in 5 mL of anhydrous DMF. The mixture is stirred at this temperature under N2 for 15 min, then (2-bromoethoxy)-t-butyldimethylsilane (4.0 mL, 18.64 mmol) is added at 0° C. The mixture is stirred at RT overnight. The reaction mixture is poured into water and extracted with ethyl acetate (EtOAc; 4×). The organic layer is dried over anhydrous magnesium sulfate (MgSO4), filtered and concentrated in vacuo. The crude product is purified by flash cromatography using EtOAc/cyclohexane (1/1) as eluent to yield 7-[2-(t-butyldimethylsilanyloxy)ethyl]-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine as white needles: LC/MS (M+1=327). 1H NMR (CDCl3, 400 MHz) δ −0.08 (s, 6H), 0.84 (s, 9H), 3.88 (t, 2H, J=5.2 Hz), 4.17 (t, 2H, J=5.2 Hz), 4.89 (s, 2H, NH2), 6.35 (d, 1H, J=3.6 Hz), 6.90 (d, 11, J=16 Hz).

reactant | NaH | 15.45 mmol, 0.618 g | [H-].[Na+]
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 11.86 mmol, 2 g | ClC=1C2=C(N=C(N1)N)NC=C2 | C6H5ClN4
reactant | (2-bromoethoxy)-t-butyldimethylsilane | 18.64 mmol, 4.0 mL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-[2-(t-butyldimethylsilanyloxy)ethyl]-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine | [Si](C)(C)(C(C)(C)C)OCCN1C=CC2=C1N=C(N=C2Cl)N | C14H23ClN4OSi
